US07977344B2
2-Butoxy-8-methoxy-9-[2-(tetrahydro-2H-pyran-4-yl)ethyl]-9H-purin-6-amine
2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt (0.2 g) in anhydrous N,N-dimethylformamide (5 mL) was treated with anhydrous potassium carbonate (0.315 g) and then heated to 60° C. for 1 hour. On cooling to room temperature, to the above was added 4-(2-bromoethyl)tetrahydro-2H-pyran (0.110 g) and the reaction was warmed to 50° C., overnight. The reaction mixture was quenched with water (5 mL) and extracted into ethyl acetate (3 times, 100 mL combined total volume). The separated organic layers were combined and passed through a hydrophobic frit to dry. The organic phase was stripped to give a gum which was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (20-60%) to afford the title compound as a white solid (111 mg).

reactant | 2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt | 0.2 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 0.315 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-bromoethyl)tetrahydro-2H-pyran | 0.110 g | BrCCC1CCOCC1 | C7H13BrO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Butoxy-8-methoxy-9-[2-(tetrahydro-2H-pyran-4-yl)ethyl]-9H-purin-6-amine | 111 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CCOCC1)OC)N | C17H27N5O3
